US08349824B2
The product was prepared in the same manner as described in example 1b using 1,2-diamino-4-bromopyridinium 2,4,6-trimethylbenzenesulfonate (2.2 g, 5.67 mmol) and 2-fluoroisonicotinoyl chloride (1.81 g, 11.3 mmol) as starting materials. The reaction affords 7-bromo-2-(2-fluoropyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyridine (1.29 g, 77.7%) as white powder. MS: m/z=294.9 (M+H+).

reactant | 1,2-diamino-4-bromopyridinium 2,4,6-trimethylbenzenesulfonate | 5.67 mmol, 2.2 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)[O-].N[N+]1=C(C=C(C=C1)Br)N
reactant | 2-fluoroisonicotinoyl chloride | 11.3 mmol, 1.81 g | FC=1C=C(C(=O)Cl)C=CN1 | C6H3ClFNO
product | 7-bromo-2-(2-fluoropyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyridine | 1.29 g, 77.7% | BrC1=CC=2N(C=C1)N=C(N2)C2=CC(=NC=C2)F | C11H6BrFN4
